US07468437B2
Step A: (racemic) (3R,4S) and (3S,4R) tert-Butyl-3-hydroxy-4-(4-fluorophenyl)pyrrolidine-1-carboxylate
The title compound was prepared from tert-butyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate and 4-fluorophenylmagnesium bromide according to the procedure for Example 1, step A. 1H-NMR (CDCl3): δ: 1.49 (s, 9H), 3.2-3.4 (m, 3H), 3.50 (m, 1H), 3.7-3.95 (m, 2H), 4.32 (q, 1H, 5 Hz), 7.05 (t, 2H), 7.23 (m, 2H) ppm.

reactant | tert-butyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | C12CN(CC2O1)C(=O)OC(C)(C)C | C9H15NO3
reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
product | (3S,4R) tert-Butyl-3-hydroxy-4-(4-fluorophenyl)pyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)F)O | C15H20FNO3
